US07592477B2
Step c) Formation of 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-N-dodecylthiophene-2-sulfonamide
To a solution of 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]thiophene-2-sulfonyl chloride (2.00 g, 5.85 mmol), DIEA (1.134 g, 8.78 mmol) in DCM (20 mL) was added dodecyl amine (1.41 g, 7.61 mmol) at rt and the reaction mixture was stirred for 2 h at rt. A 1 M aqueous solution of HCl (10 mL) was added and the aqueous layers were extracted with DCM (2×30 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to afford a yellowish oil. This crude product was purified by column chromatography over silica gel (AcOEt/c-Hex 1/4 to 4/1 in about 0.5 h) to give the title compound as a white solid (2.10 g, 73%). 1H NMR (CD3OD, 300 MHz) δ 7.91 (m, 2H), 7.85 (m, 2H), 7.43 (d, 1H, J=3.7 Hz), 7.17 (d, 1H, J=3.7 Hz), 5.05 (s, 2H), 2.90 (t, 2H, J=6.9 Hz), 1.50-1.38 (m, 2H), 1.35-1.16 (m, 18H), 0.86 (t, J=7.9 Hz, 3H) M−(LC/MS): 489.3; M+(LC/MS): 491.2. HPLC (Condition A), Rt: 6.64 min (HPLC purity: 95.9%).

reactant | 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]thiophene-2-sulfonyl chloride | 5.85 mmol, 2.00 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(S1)S(=O)(=O)Cl | C13H8ClNO4S2
reactant | DIEA | 8.78 mmol, 1.134 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dodecyl amine | 7.61 mmol, 1.41 g | C(CCCCCCCCCCC)N | C12H27N
reactant | HCl | 10 mL | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-N-dodecylthiophene-2-sulfonamide | 2.10 g, 73% | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(S1)S(=O)(=O)NCCCCCCCCCCCC | C25H34N2O4S2
